US04588731
Using the procedure of Step A of Example 6, 9.45g of 4-hydroxy-3-quinoline carboxamide and N-(4-chlorophenyl)-hydroxylamine acid were reacted to obtain 14.4 g of crude N,4-dihydroxy-N-(4-chlorophenyl)-3-quinoline carboxamide

reactant | 4-hydroxy-3-quinoline carboxamide | 9.45g | OC1=C(C=NC2=CC=CC=C12)C(=O)N | C10H8N2O2
reactant | N-(4-chlorophenyl)-hydroxylamine | ClC1=CC=C(C=C1)NO | C6H6ClNO
product | N,4-dihydroxy-N-(4-chlorophenyl)-3-quinoline carboxamide | 14.4 g | ON(C(=O)C=1C=NC2=CC=CC=C2C1O)C1=CC=C(C=C1)Cl | C16H11ClN2O3
